US08865682B2
to a mixture or 3-[4-bromo-5,5-dimethyl-5H-furan-(2E)-ylidene]-5-fluoro-1,3-dihydro-indol-2-one (3.24 g, 10.0 mmol), 6-fluoropyridin-3-ylboronic acid (1.8 g, 12 mmol) in THF (150 mL), was added a solution of potassium carbonate (13.8 g, 100 mmol) in water (20 mL). The resulting mixture was deoxygenated by bubbling nitrogen through the reaction mixture for 3 minutes and palladium(0) tetrakis(triphenylphosphine) (578 mg, 5 mol %) was then added. The reaction mixture was heated at 65° C. for 18 hours. The reaction was cooled to room temperature and ethyl acetate (500 mL) added. The organic phase was washed with water (100 mL×2), dried over sodium sulfate, and evaporated to give the crude product, which was purified first by silica gel column chromatography (5% CH3OH/CH2Cl2 elution) and then by titration with ethyl acetate. The resulting product was isolated by filtration and dried under vacuum to provide 5-fluoro-3-[4-(6-fluoro-pyridin-3-yl)-5,5-dimethyl-5H-furan-(2E)-ylidene]-1,3-dihydro-indol-2-one as a yellow solid (1.6 g, yield 48%).

reactant | 3-[4-bromo-5,5-dimethyl-5H-furan-(2E)-ylidene]-5-fluoro-1,3-dihydro-indol-2-one | 10.0 mmol, 3.24 g | BrC1=C/C(/OC1(C)C)=C/1\C(NC2=CC=C(C=C12)F)=O | C14H11BrFNO2
reactant | 6-fluoropyridin-3-ylboronic acid | 12 mmol, 1.8 g | FC1=CC=C(C=N1)B(O)O | C5H5BFNO2
reactant | potassium carbonate | 100 mmol, 13.8 g | C([O-])([O-])=O.[K+].[K+]
solvent | THF | 150 mL | C1CCOC1 | C4H8O
solvent | water | 20 mL | O | H2O
product | 5-fluoro-3-[4-(6-fluoro-pyridin-3-yl)-5,5-dimethyl-5H-furan-(2E)-ylidene]-1,3-dihydro-indol-2-one | 1.6 g, yield 48% | FC=1C=C2\C(\C(NC2=CC1)=O)=C\1/OC(C(=C1)C=1C=NC(=CC1)F)(C)C | C19H14F2N2O2
